US06906084B2
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid (1-carbamoyl-piperidin-4-yl)-amide
To a solution of 50 mg 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid piperidin-4-ylamide in 2 ml acetic acid, 14 mg KOCN were added at RT and stirred over night. After removal of the solvent under reduced pressure the residue directly purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). After lyophilization the product was obtained as a white solid.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid piperidin-4-ylamide | 50 mg | N1CCC(CC1)NC(=O)C=1N(C2=CC=CC=C2C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C22H21ClN4O2S
reactant | KOCN | 14 mg | O([K])C#N
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid (1-carbamoyl-piperidin-4-yl)-amide | C(N)(=O)N1CCC(CC1)NC(=O)C=1N(C2=CC=CC=C2C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C23H22ClN5O3S
